US07141565B1
3-amino-2-hydroxyfluorenone
A mixture of 3-nitro-2-hydroxyfluorenone (1.6 g, 6.6 mmol) and SnCl2 (3 g, 6.6 mmol) was refluxed in 100 ml acetic acid:conc. HCl (1:1) for 1 hour. The mixture was allowed to cool to room temperature and neutralized with ammonium hydroxide. After extracting with EtOAc (3×100 ml), combined organic fractions were dried over magnesium sulfate and evaporated to leave the product as a brown solid (65%) (M+1, 212).

reactant | 3-nitro-2-hydroxyfluorenone | 6.6 mmol, 1.6 g | [N+](=O)([O-])C1=C(C(C2=CC3=CC=CC=C3C2=C1)=O)O | C13H7NO4
reactant | SnCl2 | 6.6 mmol, 3 g | Cl[Sn]Cl
reactant | HCl | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3-amino-2-hydroxyfluorenone | 65% | NC1=C(C(C2=CC3=CC=CC=C3C2=C1)=O)O | C13H9NO2
